US04412077
A 15 g portion of 6-ethyl-1,2-dihydro-2-oxo-5-(n-propanoyl)-nicotinic acid was heated in an oil bath at 235°-240° C. for 5 hours, cooled and the reaction mixture dissolved in hot ethanol, treated with decolorizing charcoal and filtered. The filtrate was evaporated in dryness and the residue recrystallized from isopropyl alcohol to yield 8.2 g of 6-ethyl-5-(n-propanoyl)-2(1H)-pyridinone, m.p. 138°-140° C.

reactant | 6-ethyl-1,2-dihydro-2-oxo-5-(n-propanoyl)-nicotinic acid | C(C)C=1NC(C(C(=O)O)=CC1C(CC)=O)=O | C11H13NO4
reactant | charcoal | C | CH4
solvent | ethanol | C(C)O | C2H6O
product | 6-ethyl-5-(n-propanoyl)-2(1H)-pyridinone | 8.2 g | C(C)C1=C(C=CC(N1)=O)C(CC)=O | C10H13NO2
